US07163940B2
A solution of 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-[(dimethylamino)methyl]-2-pyrimidinamine (60 mg, 0.13 mmol) in cyclopentylamine (2 mL) was heated in a sealed tube at 95° C. for 16 hours followed by heating at 100° C. for 72 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and washed with a saturated aqueous sodium bicarbonate solution. The organic layer was concentrated and chromatographed (37:3 dichloromethane:methanol) to provide N-cyclopentyl-3-{2-(cyclopentylamino)-6-[(dimethylamino)methyl]-4-pyrimidinyl}-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine (10 mg, 15%). 1H NMR (CDCl3) δ 7.70 (d, 1H), 7.65 (m, 2H), 7.31 (t, 1H), 7.12 (t, 2H), 6.37 (s, 1H), 6.05–5.95 (m, 2H), 5.13 (d, 1H), 4.35 (m, 1H), 4.01 (m, 1H), 3.20 (s, 2H), 2.20 (s, 6H), 2.15 (m, 2H), 2.05 (m, 2H), 1.90–1.50 (m, 12H); MS m/z 514 (M+1).

reactant | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-[(dimethylamino)methyl]-2-pyrimidinamine | 0.13 mmol, 60 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC(=C2)CN(C)C)NC2CCCC2)C2=CC=C(C=C2)F | C25H26ClFN6
solvent | cyclopentylamine | 2 mL | C1(CCCC1)N | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopentyl-3-{2-(cyclopentylamino)-6-[(dimethylamino)methyl]-4-pyrimidinyl}-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine | 10 mg, 15% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC(=C2)CN(C)C)NC2CCCC2)C2=CC=C(C=C2)F | C30H36FN7
